US04522948
3-(Cyclohexylmethyl)heptanenitrile (1.43 g) in 10 ml of 50% aqueous sulfuric acid was heated under reflux overnight. The cooled mixture was then poured into water (100 ml) and extracted twice with ether. The ethereal extracts were washed with water, dried (MgSO4) and evaporated to give 3-(cyclohexylmethyl)heptanoic acid.

reactant | 3-(Cyclohexylmethyl)heptanenitrile | 1.43 g | C1(CCCCC1)CC(CC#N)CCCC | C14H25N
reactant | water | 100 ml | O | H2O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(cyclohexylmethyl)heptanoic acid | C1(CCCCC1)CC(CC(=O)O)CCCC | C14H26O2
